US08748432B2
b) Preparation of 3-chloro-2-hydroxy-N-(3-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-phenyl)-benzamide (Compound No. I.u.003)
To a solution of 3-chloro-2-hydroxy-benzoic acid (0.11 g, 0.65 mmol) in acetonitrile (10 mL) is added carbodiimidazole (0.11 g, 0.71 mmol). After stirring the reaction mixture at 60° C. for 2 h, 1-[4-(3-amino-phenyl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone (0.20 g, 055 mmol) is added, followed by 1,8-diazabicycloundec-7-ene (0.1 mL, 0.82 mmol). After stirring overnight at 60° C., the reaction mixture is cooled down to RT and then solvent is evaporated and the resulting yellow oil is dissolved in ethylacetate (20 mL), washed with saturated aqueous sodium bicarbonate solution (20 mL), 1N HCl (20 mL) and brine (20 mL). The organic layer is dried over sodium sulfate, filtered, and evaporated under reduced pressure. Cyclohexane is added dropwise to a solution of crude mixture in 1 mL ethylacetate to give after filtration 3-chloro-2-hydroxy-N-(3-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-phenyl)-benzamide (Compound No. I.u.003) (0.148 g, 43%). 1H-NMR (400 MHz, MeOD): δ=1.61-1.76 (m, 1H), 1.77-1.90 (m, 1H), 1.92-2.03 (m, 2H), 2.33 (s, 3H), 2.81-2.99 (m, 2H), 3.31-3.41 (m, 1H), 4.09-4.16 (m, 1H), 4.61-4.70 (m, 1H), 5.62-5.81 (q, 2H), 6.45 (s, 1H), 6.95-7.01 (t, 1H), 7.11-7.18 (m, 1H), 7.33-7.39 (t, 1H), 7.51-7.60 (m, 2H), 7.63 (s, 1H), 7.91-7.92 (m, 1H). MS: m/z=521 (M+1).

reactant | 3-chloro-2-hydroxy-benzoic acid | 0.65 mmol, 0.11 g | ClC=1C(=C(C(=O)O)C=CC1)O | C7H5ClO3
reactant | carbodiimidazole | 0.71 mmol, 0.11 g | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 1-[4-(3-amino-phenyl)-piperidin-1-yl]-2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-ethanone | 0.20 g | NC=1C=C(C=CC1)C1CCN(CC1)C(CN1N=C(C=C1C)C(F)(F)F)=O | C18H21F3N4O
reactant | 1,8-diazabicycloundec-7-ene | 0.82 mmol, 0.1 mL | N1(CCCCCC=NCCC1)C1CCCCCCCCCC1 | C20H38N2
solvent | acetonitrile | 10 mL | C(C)#N | C2H3N
product | 3-chloro-2-hydroxy-N-(3-{1-[2-(5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-piperidin-4-yl}-phenyl)-benzamide | ClC=1C(=C(C(=O)NC2=CC(=CC=C2)C2CCN(CC2)C(CN2N=C(C=C2C)C(F)(F)F)=O)C=CC1)O | C25H24ClF3N4O3
